US07119120B2
To an oven dried 30 mL vial containing a stirring bar 2 mL of pyridine was added followed by 3,5-bistrifluorometylphenylisocyanate (35 mg, 0.125) and 2-Diethylphosphono-4-bromoaniline (32 mg, 0.104 mmol). The resulting solution was stirred at 65° C. for 3 hours. Pyridine was removed by rotary evaporation and then the product was purified by silica column chromatography using mixtures of EtOAc and hexanes to give 1-(2-diethylphosphono-4-bromophenyl)-3-(3,5-bistrifluoromethylphenyl)urea. 1H-NMR (400 MHz, CDCl3): δ=1.32 (t, 6.8 Hz, 6H CH3), 4.10 (m, 4H, CH2), 7.52 (s, 1H, CCF3CHCCF3), 7,64 (m, 2H, CHCBRCH), 8.03 (s, 2H, CCF3CHCNH), 8.30 (m, 1H, CPCNCH), 8.62 (s, 1H, NH), 9.82 (s, 1H, PCCNH). 31P (400 Mz, CDCl3) δ=18.19 (s)

reactant | 3,5-bistrifluorometylphenylisocyanate | 35 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
reactant | 2-Diethylphosphono-4-bromoaniline | 0.104 mmol, 32 mg | C(C)OP(=O)(OCC)C1=C(N)C=CC(=C1)Br | C10H15BrNO3P
product | 1-(2-diethylphosphono-4-bromophenyl)-3-(3,5-bistrifluoromethylphenyl)urea | C(C)OP(=O)(OCC)C1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H18BrF6N2O4P
